### PR TITLE
feat: verify `toArray` for hash maps

### PR DESCRIPTION
**Pull request by jt0202**
This PR verifies `toArray` and related functions for hashmaps.

### CODE REVIEW

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 1]
```diff
@@ -1108,6 +1108,122 @@ theorem distinct_keys_toList [EquivBEq α] [LawfulHashable α] (h : m.1.WF) :
 
 end Const
 
+omit [Hashable α] [BEq α] in
+theorem keysArray_eq_toArray_keys :
+    m.1.keysArray = m.1.keys.toArray := by
```
Comment (jt0202) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean]: Useful to have or hide as an implementation detail and only keep an equivalence public?

**Comment by jt0202** [comment]
I didn't manage to get `simp_to_model` to work with the functions. Probably some congruence lemma needs to be added or I need to swap some things in the WF lemmas. Is it worth spending more time in this considering all proofs are oneliners anyway?

Also, it was not possible to prove the no duplicate lemmas that exists for `toList`/`keys`, since the standard library does not have `Array.Pairwise` which only lives in batteries.

**Comment by jt0202** [comment]
changelog-library

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 2]
```diff
@@ -1203,6 +1319,100 @@ theorem forIn_eq_forIn_toList [Monad m'] [LawfulMonad m']
...
+    Raw.Internal.foldRevM f init m.1 = m.1.toArray.foldrM (fun a b => f b a.1 a.2) init := by
+  simp [toArray_eq_toArray_toList, foldRevM_eq_foldrM_toList]
+
+theorem foldRev_eq_foldr_toArray {f : δ → (a : α) → β a → δ} {init : δ} :
+    Raw.Internal.foldRev f init m.1 = m.1.toArray.foldr (fun a b => f b a.1 a.2) init := by
+  simp [toArray_eq_toArray_toList, foldRev_eq_foldr_toList]
+
+private theorem Array.forM_toArray [Monad m'] {l : List α} {f: α → m' PUnit}:
+    Array.forM f l.toArray = List.forM l f := by
+  simp only [List.size_toArray, List.forM_toArray', List.forM_eq_forM]
```
Comment (jt0202) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean]: Is that also useful to have in the standard library somewhere else?

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean (hunk 1 above)
Comment (Rob23oba) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean]: I mean, you can derive from `toArray_eq_toArray_toList`, `map_fst_toArray_eq_keysArray` and `map_fst_toList_eq_keys` and this is true for both `HashMap` and `TreeMap` so I'd keep it.

File: src/Init/Data/Array/Lemmas.lean [hunk 3]
```diff
@@ -840,9 +840,18 @@ theorem mem_of_contains_eq_true [BEq α] [LawfulBEq α] {a : α} {as : Array α}
...
+  cases as with
+  | mk l =>
+    simp only [mem_toArray, List.contains_toArray] at h ⊢
+    induction l with
+    | nil => simp at h
+    | cons hd tl ih =>
+      simp only [List.mem_cons, List.contains_cons, Bool.or_eq_true] at h ⊢
+      cases h with
+      | inl h => simp [h]
+      | inr h => simp [ih h]
```
Comment (Rob23oba) [inline src/Init/Data/Array/Lemmas.lean]:
```suggestion
  simpa using List.elem_eq_true_of_mem (Array.mem_toList_iff.mpr h)
```

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean (hunk 2 above)
Comment (Rob23oba) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean]: `Array.forM_eq_forM` + `List.forM_toArray`? `ForM.forM` is simp normal so it's natural that there aren't really lemmas about the "implementation detail" `Array.forM`. In fact, I believe the signatures of `List.forM_toArray'` and `List.forM_toArray` are incorrect because they aren't simp normal.

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ✅ Mathlib branch [lean-pr-testing-9685](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-9685) has successfully built against this PR. (2025-08-02 15:23:11) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/16694629179)
- ✅ Mathlib branch [lean-pr-testing-9685](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-9685) has successfully built against this PR. (2025-08-02 18:06:21) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/16695923116)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 1e83f62d31ab723e41ffb266002d8a3e95e9dad2 --onto 08c3f3c2366db7000fd20267e84aeb6e06487323`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-08-02 20:42:52)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 1e83f62d31ab723e41ffb266002d8a3e95e9dad2 --onto c260435913353a138e3d463b533d1449de0d0062`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-08-04 19:33:11)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 12cd4ca7423119c116dcef78d5ae972d44f8af47 --onto c260435913353a138e3d463b533d1449de0d0062`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-08-05 07:04:50)
- ✅ Mathlib branch [lean-pr-testing-9685](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-9685) has successfully built against this PR. (2025-08-11 17:02:16) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/16885583693)

File: src/Std/Data/DHashMap/Internal/WF.lean [hunk 4]
```diff
@@ -177,10 +201,32 @@ theorem Const.toList_eq_toListModel_map {β : Type v} {m : Raw α (fun _ => β)}
...
+theorem Const.toArray_eq_toArray_map_toListModel {β : Type v} {m : Raw α (fun _ => β)} :
+    Raw.Const.toArray m = ((toListModel m.buckets).map (fun ⟨k, v⟩ => (k,v))).toArray := by
+  simp [Raw.Const.toArray, fold_push_mk]
+
+theorem toArray_eq_toArray_toList {m : Raw α β} : m.toArray = m.toList.toArray := by
+  simp [toArray_eq_toArray_toListModel, toList_eq_toListModel]
+
+theorem Const.toArray_eq_toArray_map_toList {β : Type v} {m : Raw α (fun _ => β)} :
+    Raw.Const.toArray m = (Raw.Const.toList m).toArray := by
+  simp [Const.toArray_eq_toArray_map_toListModel, Const.toList_eq_toListModel_map]
```
Comment (Rob23oba) [inline src/Std/Data/DHashMap/Internal/WF.lean]: These ones shouldn't be necessary

File: src/Std/Data/DHashMap/Internal/WF.lean [hunk 5]
```diff
@@ -177,10 +201,32 @@ theorem Const.toList_eq_toListModel_map {β : Type v} {m : Raw α (fun _ => β)}
...
     m.keys = List.keys (toListModel m.buckets) := by
   simp [Raw.keys, foldRev_cons_key, keys_eq_map]
 
+theorem keysArray_eq_toArray_keys_toListModel {m : Raw α β} :
+    m.keysArray = (List.keys (toListModel m.buckets)).toArray := by
+  simp [Raw.keysArray, fold_push_key]
+
+theorem keysArray_eq_toArray_keys {m : Raw α β} :
+    m.keysArray = m.keys.toArray := by
+  simp [keys_eq_keys_toListModel, keysArray_eq_toArray_keys_toListModel]
```
Comment (Rob23oba) [inline src/Std/Data/DHashMap/Internal/WF.lean]: This one should also not be necessary

File: src/Std/Data/DHashMap/Internal/WF.lean [hunk 6]
```diff
@@ -177,10 +201,32 @@ theorem Const.toList_eq_toListModel_map {β : Type v} {m : Raw α (fun _ => β)}
...
+  simp [Raw.Const.toArray, fold_push_mk]
+
+theorem toArray_eq_toArray_toList {m : Raw α β} : m.toArray = m.toList.toArray := by
+  simp [toArray_eq_toArray_toListModel, toList_eq_toListModel]
+
+theorem Const.toArray_eq_toArray_map_toList {β : Type v} {m : Raw α (fun _ => β)} :
+    Raw.Const.toArray m = (Raw.Const.toList m).toArray := by
+  simp [Const.toArray_eq_toArray_map_toListModel, Const.toList_eq_toListModel_map]
+
+theorem keys_eq_keys_toListModel {m : Raw α β } :
```
Comment (Rob23oba) [inline src/Std/Data/DHashMap/Internal/WF.lean]:
```suggestion
theorem keys_eq_keys_toListModel {m : Raw α β} :
```

**Review by Rob23oba — COMMENTED** [review]
Regarding `simp_to_model`: You need to add the operations at the top of the file in `queryMap`. You should basically be able to copy how it's done with `keys`, `toArray` and `Const.toArray`. Then `simp_to_model [keysArray, toArray]` or similar (just mention everything that occurs in the goal) should do something meaningful. The goal after `simp_to_model` should then be a lemma in `Std.Data.Internal.List.Associative`. Otherwise, some comments / improvements.

**Comment by jt0202** [comment]
> Regarding `simp_to_model`: You need to add the operations at the top of the file in `queryMap`. You should basically be able to copy how it's done with `keys`, `toArray` and `Const.toArray`. Then `simp_to_model [keysArray, toArray]` or similar (just mention everything that occurs in the goal) should do something meaningful. The goal after `simp_to_model` should then be a lemma in `Std.Data.Internal.List.Associative`. Otherwise, some comments / improvements.

I know that and tried it. It didn't rewrote me for, so I guess some congr lemma is missing.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean (hunk 2 above)
Comment (jt0202) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean]: Thanks for the pointer. Then this is not needed.

**Comment by Rob23oba** [comment]
Hmm, weird. I cloned your branch and adding:
```lean-4
     ⟨`toArray, (``Raw.toArray_eq_toArray_toListModel, #[])⟩,
     ⟨`keysArray, (``Raw.keysArray_eq_toArray_keys_toListModel, #[])⟩,
     ⟨`Const.toArray, (``Raw.Const.toArray_eq_toArray_map_toListModel, #[])⟩,
```
to the `queryMap` and then doing something like
```lean-4
theorem forall_mem_keysArray_iff_forall_contains_getKey [EquivBEq α] [LawfulHashable α]
    (h : m.1.WF) {p : α → Prop} :
    (∀ k ∈ m.1.keysArray, p k) ↔ ∀ (k : α) (h : m.contains k), p (m.getKey k h) := by
  simp_to_model [keysArray, contains, getKey]
```
does something meaningful; the goal after that is
```lean-4
(∀ (k : α), k ∈ (List.keys (toListModel m.val.buckets)).toArray → p k) ↔
  ∀ (k : α) (h_1 : containsKey k (toListModel m.val.buckets) = true), p (List.getKey k (toListModel m.val.buckets) ⋯)
```
which makes the signature of the `Std.Data.Internal.List.Associative` lemma:
```lean-4
theorem forall_mem_toArray_keys_iff_forall_containsKey_getKey [BEq α] [EquivBEq α] {l : List ((a : α) × β a)}
    {p : α → Prop} (hl : DistinctKeys l) :
    (∀ (k : α), k ∈ (List.keys l).toArray → p k) ↔ ∀ (k : α) (h : containsKey k l = true), p (List.getKey k l h) := by
  ...
```
and then you should be able to do:
```lean-4
theorem forall_mem_keysArray_iff_forall_contains_getKey [EquivBEq α] [LawfulHashable α]
    (h : m.1.WF) {p : α → Prop} :
    (∀ k ∈ m.1.keysArray, p k) ↔ ∀ (k : α) (h : m.contains k), p (m.getKey k h) := by
  simp_to_model [keysArray, contains, getKey] using List.forall_mem_toArray_keys_iff_forall_containsKey_getKey
```

**Comment by jt0202** [comment]
> Hmm, weird. I cloned your branch and adding:
> 
> ```lean4
>      ⟨`toArray, (``Raw.toArray_eq_toArray_toListModel, #[])⟩,
>      ⟨`keysArray, (``Raw.keysArray_eq_toArray_keys_toListModel, #[])⟩,
>      ⟨`Const.toArray, (``Raw.Const.toArray_eq_toArray_map_toListModel, #[])⟩,
> ```
> 
> to the `queryMap` and then doing something like
> 
> ```lean4
> theorem forall_mem_keysArray_iff_forall_contains_getKey [EquivBEq α] [LawfulHashable α]
>     (h : m.1.WF) {p : α → Prop} :
>     (∀ k ∈ m.1.keysArray, p k) ↔ ∀ (k : α) (h : m.contains k), p (m.getKey k h) := by
>   simp_to_model [keysArray, contains, getKey]
> ```
> 
> does something meaningful; the goal after that is
> 
> ```lean4
> (∀ (k : α), k ∈ (List.keys (toListModel m.val.buckets)).toArray → p k) ↔
>   ∀ (k : α) (h_1 : containsKey k (toListModel m.val.buckets) = true), p (List.getKey k (toListModel m.val.buckets) ⋯)
> ```

I added these three lines to the queryMap and gain:

```
(∀ (k : α), k ∈ m.val.keysArray → p k) ↔
  ∀ (k : α) (h_1 : containsKey k (toListModel m.val.buckets) = true), p (List.getKey k (toListModel m.val.buckets) ⋯)
```

Pushing it now to see what the github server tells as a goal.

File: src/Init/Data/Array/Lemmas.lean (hunk 3 above)
Comment (jt0202) [reply src/Init/Data/Array/Lemmas.lean]: Thanks. The cases tactic needs to stay though for me.

**Comment by jt0202** [comment]
Okay, the github server agrees with you and even the console output on my pc agrees with you. Nonetheless:

grafik

This is super strange. 

Apart from these technical problems I find it quite unelegant having to write all the lemmas with `toArray` again. The current solution is simpler from my pov.

**Comment by Rob23oba** [comment]
Maybe try rebuilding locally and then restarting the file? Otherwise I'll let @TwoFX be the judge of whether this should be kept as is or moved to `simp_to_model`.

**Comment by jt0202** [comment]
Deleted the build folder and did it again from scratch, now it works. ffs

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 7]
```diff
@@ -1108,6 +1111,122 @@ theorem distinct_keys_toList [EquivBEq α] [LawfulHashable α] (h : m.1.WF) :
...
+    (h : m.1.WF) {p : α → Prop} :
+    (∀ k ∈ m.1.keysArray, p k) ↔ ∀ (k : α) (h : m.contains k), p (m.getKey k h) := by
+  simp [keysArray_eq_toArray_keys, h, forall_mem_keys_iff_forall_contains_getKey]
+
+theorem contains_of_mem_keysArray [EquivBEq α] [LawfulHashable α] (h : m.1.WF) {k : α}
+    (h' : k ∈ m.1.keysArray) : m.contains k :=
+  (contains_keysArray m h).symm.trans (Array.contains_eq_true_of_mem h')
+
+omit [Hashable α] [BEq α] in
+theorem toArray_eq_toArray_toList :
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean]: I think this one would make a nice `simp` lemma in the other direction as `toArray_toList`, and we should probably also have `toList_toArray`.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean (hunk 1 above)
Comment (TwoFX) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean]: Sounds like a reasonable `simp` lemma in the other direction as well.

**Comment by TwoFX** [comment]
Please let me know once the PR is ready for me to have a first look at the lemmas.

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 8]
```diff
@@ -1166,6 +1166,46 @@ theorem distinct_keys [EquivBEq α] [LawfulHashable α] :
     m.keys.Pairwise (fun a b => (a == b) = false) :=
   Raw₀.distinct_keys ⟨m.1, m.2.size_buckets_pos⟩ m.2
 
+@[simp]
+theorem toArray_keys_eq_keysArray :
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Lemmas.lean]: Let's shorten the name to `toArray_keys`. Similar for the lemma below.

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 9]
```diff
@@ -1166,6 +1166,46 @@ theorem distinct_keys [EquivBEq α] [LawfulHashable α] :
...
+    m.keysArray.contains k = m.contains k :=
+  Raw₀.contains_keysArray ⟨m.1, m.2.size_buckets_pos⟩ m.2
+
+@[simp]
+theorem mem_keysArray [LawfulBEq α] {k : α} :
+    k ∈ m.keysArray ↔ k ∈ m :=
+  Raw₀.mem_keysArray ⟨m.1, m.2.size_buckets_pos⟩ m.2
+
+theorem forall_mem_keysArray_iff_forall_mem_getKey [EquivBEq α] [LawfulHashable α]
+     {p : α → Prop} :
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Lemmas.lean]:
```suggestion
    {p : α → Prop} :
```

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 10]
```diff
@@ -1279,6 +1319,103 @@ theorem distinct_keys_toList [EquivBEq α] [LawfulHashable α] :
 
 end Const
 
+@[simp]
+theorem toArray_toList_eq_toArray :
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Lemmas.lean]: As above, I think `toArray_toList` is fine as a name.

**Review by TwoFX — COMMENTED** [review]
Looking good, just a few comments. Please apply them to all files.

**Review by TwoFX — APPROVED** [review]
Thanks!
